* simulator lang=spectre
* ;change 20131017

* ///  2024.09.30 D.Aoki  fixed tnom

* //macro F_CSIO/////////////////////////////////
.model m_CSIO C tnom=27

.subckt F_CSIO_mst plus minus sub
.param c=0 y=0 x=0 m=1 magCSIO=1

C1 plus minus m_CSIO c=c*magCSIO  m=m

C2 minus sub  							
+ c = '0.56*(((x+18.8+((2.03e-8*(0.61+v(minus,sub)))**0.5)*1e+4)*			
+     (y+18.8+((2.03e-8*(0.61+v(minus,sub)))**0.5)*1e+4))*(1.053e-20)/		
+     (2.03e-8*(0.61+v(minus,sub)))**0.5+(2.0*(x+18.8+((1.03e-8*(0.71+		
+     v(minus,sub)))**0.5)*1e+4)*(10+0.5*((1.03e-8*(0.71+v(minus,sub)))**0.5)*	
+     1e+4)+2.0*(y+18.8+((1.03e-8*(0.71+v(minus,sub)))**0.5)*1e+4)*		
+     (10+0.5*((1.03e-8*(0.71+v(minus,sub)))**0.5)*1e+4))*(1.053e-20)/		
+     (1.03e-8*(0.71+v(minus,sub)))**0.5)'    m=m

.ends F_CSIO_mst

.subckt F_CSIO plus minus sub
.param c=0 y=0 x=0 m=1
                           
X1 plus minus sub F_CSIO_mst c=c m=m  x=x*1e+6  y=y*1e+6  
.ends F_CSIO
